US06391520B1
A mixture of 10 mmol of the obtained 1.3-di(t-butoxycarbonyl)adamantane, 2 mmol of NHPI, 0.1 mmol of acetylacetonatocobalt Co(AA)2, and 25 ml of acetic acid was stirred in an atmosphere of oxygen at 75° C. for 6 hours. As a result, there was obtained 1,3-di(t-butoxycarbonyl)-5-hydroxyadamantane.

reactant | 1.3-di(t-butoxycarbonyl)adamantane | 10 mmol | C(C)(C)(C)OC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)OC(C)(C)C | C20H32O4
reactant | oxygen | O=O | O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1,3-di(t-butoxycarbonyl)-5-hydroxyadamantane | C(C)(C)(C)OC(=O)C12CC3(CC(CC(C1)C3)(C2)O)C(=O)OC(C)(C)C | C20H32O5
